US09403833B2
Step 3: 1-(2-Chloro-4-cyclopropylphenyl)-5-methyl-1H-1,2,3-triazole-4-carboxylic acid
To crude 1-azido-2-chloro-4-cyclopropylbenzene (0.2 M solution in THF) was added methyl 3-oxobutanoate (146 g, 1254 mmol) and the resulting mixture was cooled to 5° C. NaOMe (232 mL, 1254 mmol) was added slowly forming a precipitate and the mixture was stirred at RT for 64 hrs. The resulting suspension was cooled in an ice bath and water (2 L) was added. The mixture was transferred to a separating funnel and the aqueous layer was extracted with Me-THF (500 mL). The aqueous layer was acidified with 2M HCl (aq) and extracted with EtOAc (2 L) (1×) and (1 L) (2×). The combined organic extracts were washed with water (1 L) and brine (1 L), dried over Na2SO4, filtered and concentrated under reduced pressure to give an orange oily residue. Water (300 mL) was added and the mixture was stirred for 30 min, filtered, washed with water and dried under reduced pressure to give the title compound as orange crystals.

reactant | 1-azido-2-chloro-4-cyclopropylbenzene | 0.2 M | N(=[N+]=[N-])C1=C(C=C(C=C1)C1CC1)Cl | C9H8ClN3
reactant | methyl 3-oxobutanoate | 1254 mmol, 146 g | O=C(CC(=O)OC)C | C5H8O3
reactant | NaOMe | 1254 mmol, 232 mL | C[O-].[Na+]
solvent | Water | 300 mL | O | H2O
solvent | water | 2 L | O | H2O
product | 1-(2-Chloro-4-cyclopropylphenyl)-5-methyl-1H-1,2,3-triazole-4-carboxylic acid | ClC1=C(C=CC(=C1)C1CC1)N1N=NC(=C1C)C(=O)O | C13H12ClN3O2
